2132-06-09 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2132-6-8**] 05:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-6-8**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-6-8**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-6-9**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 101 (94 - 114) bpm
   BP: 103/61(71) {103/58(69) - 122/75(86)} mmHg
   RR: 37 (20 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    566 mL
                                                                    273 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    366 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                    300 mL
   Urine:
                                                                    410 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    156 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 568 (568 - 568) mL
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.48/62/272/45/19
   Ve: 8.6 L/min
   PaO2 / FiO2: 544
   Physical Examination
   General Appearance: Thin, Looks chronically ill, MMM, o/p clear.
   Tachypneic.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, skin grafting on ant chest, echymoses on LE
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   7.8 g/dL
   188 mg/dL
   0.5 mg/dL
   45 mEq/L
   3.8 mEq/L
   29 mg/dL
   85 mEq/L
   132 mEq/L
   20.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2132-6-8**]  11:27 PM
                             [**2132-6-9**]  03:38 AM
   WBC
   4.7
   Hct
   20.7
   Plt
   62
   Cr
   0.5
   TCO2
   47
   Glucose
   188
   Other labs: PT / PTT / INR:13.2/23.9/1.1, ALT / AST:71/48, Alk Phos / T
   Bili:181/2.0, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:325 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   A/P: Ms. [**Known lastname 6267**] is a 53 year old female with a PMH significant for HIV
   (CD4 34) admitted with dyspnea and hypoxia.
   .
   # Dyspnea/Hypoxia: Broad differential at this time given patient's
   immunocomprised state including opportunistic infections such as MAC or
   PCP, [**Name10 (NameIs) **] or bacterial pneumonia, MTB, or non-infectious etiologies
   including PE. ABG overnight atypical in setting of chronic metabolic
   alkalosis, although patient has been hypoxic off supplemental O2.   CHF
   unlikely given recent TTE with preserved LVEF and BNP on admission
   <500. Patient at baseline also has documented hypoxia with R -> L
   intracardiac shunt, pulmonary hypertension (53/30, wedge 14, no
   response to vasoactive trial) on home supplemental O2, and
   bronchiectasis all contributing to decreased cardiopulmonary reserve.
   - Continue empiric coverage for PCP with TMP/SMX and prednisone,
   - Continue empiric coverage for bacterial pneumonia with vanco,
   levofloxacin, and pip/tazo.
   - F/u sputum and blood culture data
   - Check induced sputum
   - Standing nebs
   - Hold lasix as patient does not appear volume overloaded
   - Wean O2 as tolerated.
   - Repeat TTE with bubble study
   - Legionella urinary antigen
   - ID consult.
   .
   # HIV/AIDS: Most recent CD4 count 33 on [**2133-1-6**], [**Date Range **] load
   undetectable.
   - HAART held overnight, will check with ID this AM.
   - cont azithromycin ppx
   - cont diflucan ppx
   - ID consult
   .
   # Anemia: Hct this AM 20.7 down from 23.2 on admission.  Baseline hct
   mid-upper 20s. Previously felt to be secondary to bone marrow
   supression from HIB with component of hemolysis. Hemolysis labs
   overnight negative with normal haptoglobin.
   - Transfuse 1 unit PRBC, crossmatch for 2 units.
   - Check hct Q12H
   - Guaiac stools, if positive, will consult GI for further diagnostic
   and possible therapeutic intervention.
   .
   # Thrombocytopenia: Plt 62 at baseline. Felt to be secondary to HIV
   myelosuppression and sequestration [**3-3**] splenomegaly.
   - Trend plt
   .
   # Hepatitis C: Active disease with most recent VL 8,640,000 IU/mL on
   [**2132-3-4**]. Not being treated [**3-3**] pancytopenia. AFP and imaging negative
   [**2-8**].
   - Limit acetaminophen to 2g/day
   .
   FEN: Regular, replete as necessary
   PPx: SCDs
   Access: PIV
   Code: full code confirmed with patient
   Communication: Patient
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-6-8**] 11:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-06-10 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2132-6-9**] 10:36 AM
 URINE CULTURE - At [**2132-6-9**] 02:36 PM
 INVASIVE VENTILATION - START [**2132-6-9**] 09:57 PM
   - 1 unit of pRBCs - post transfusion crit 23.5
   -restarted HAART
   - changed bactrim to IV, continue until beta glucan negative and chest
   CT negative per ID
   - influenza swab sent
   - sputum PCP neg
   [**Name9 (PRE) 6283**]:  Late appearance of saline contrast suggestive of transpulmonic
   passage (e.g., pulmonary AVM). Normal biventricular cavity sizes with
   preserved global and regional biventricular systolic function. Moderate
   pulmonary artery systolic hypertension.
   - [**Name9 (PRE) **]
   - a-line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-6-9**] 04:46 PM
   Vancomycin - [**2132-6-9**] 08:09 PM
   Bactrim (SMX/TMP) - [**2132-6-9**] 11:54 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Propofol - [**2132-6-10**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-6-10**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.4
   HR: 86 (84 - 116) bpm
   BP: 107/60(74) {95/59(71) - 125/63(83)} mmHg
   RR: 18 (12 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,937 mL
                                                                    572 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                  1,157 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    320 mL
   Urine:
                                                                    560 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,377 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: 7.51/61/104/41/21
   Ve: 8.5 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: [**Year (4 digits) **], sedated
   HEENT: ET tube, OG tube in place
   Cardiovascular: RRR
   Respiratory / Chest: b/l crackles
   Abdominal: Soft, non distended
   Extremities: 2 + edema b/l
   Skin:  skin grafting on ant chest, b/l UEs echymoses on LE
   Neurologic: sedated
   Labs / Radiology
   49 K/uL
   7.1 g/dL
   109 mg/dL
   0.5 mg/dL
   41 mEq/L
   4.0 mEq/L
   22 mg/dL
   87 mEq/L
   130 mEq/L
   19.1 %
   3.1 K/uL
        [image002.jpg]
                             [**2132-6-8**]  11:27 PM
                             [**2132-6-9**]  03:38 AM
                             [**2132-6-9**]  01:25 PM
                             [**2132-6-9**]  05:15 PM
                             [**2132-6-10**]  12:29 AM
                             [**2132-6-10**]  04:56 AM
                             [**2132-6-10**]  05:22 AM
   WBC
   4.7
   3.1
   Hct
   20.7
   23.5
   19.1
   Plt
   62
   49
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   47
   49
   50
   50
   Glucose
   188
   191
   109
   Other labs: PT / PTT / INR:13.2/23.9/1.1, CK / CKMB /
   Troponin-T:22//<0.01, ALT / AST:71/48, Alk Phos / T Bili:181/2.0,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:325 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   A/P: Ms. [**Known lastname 6267**] is a 53 year old female with a PMH significant for HIV
   (CD4 34) admitted with dyspnea and hypoxia.
   .
   # Dyspnea/Hypoxia: Broad differential at this time given patient's
   immunocomprised state including opportunistic infections such as MAC or
   PCP, [**Name10 (NameIs) **] or bacterial pneumonia, MTB, or non-infectious etiologies
   including PE, hemorrhage. Also with history of extrinsic restriction
   given scarring from previous burns, and h/o bronchiectasis. ABG
   overnight atypical in setting of chronic metabolic alkalosis, although
   patient has been hypoxic off supplemental O2.   CHF unlikely given
   recent TTE with preserved LVEF and BNP on admission <500. Patient at
   baseline also has documented hypoxia with R -> L intracardiac shunt,
   pulmonary hypertension (53/30, wedge 14, no response to vasoactive
   trial) on home supplemental O2, and bronchiectasis all contributing to
   decreased cardiopulmonary reserve. Echo [**6-9**] demonstrated preserved EF,
   mod pulm HTN, and transpulmonic passage.  Sputum negative for PCP.
   [**Name Initial (NameIs) **] [**6-9**] for respiratory distress, increased work of breathing.
   - Bronchoscopy c/ BAL
   - CT chest when stable to travel to CT scanner
   - Beta glucan and galactomannan pending
   - Continue empiric coverage for PCP with TMP/SMX and prednisone
   - Continue empiric coverage for bacterial pneumonia with vanco,
   levofloxacin, and pip/tazo.
   - F/u sputum and blood culture data
   - Check induced sputum
   - R/o influenza, CMV and EBV [**Month/Year (2) **] loads, mycolytic blood cultures
   - Standing MDis
   - ARDSnet volume settings, wean O2 as tolerated.
   - Legionella urinary antigen
   - F/u ID recs
   .
   # Metabolic alkalosis. Unclear etiology. History of pulmonary shunt may
   be contributing.
   - Decrease RR for hypoventilation
   - Aggressively replete chloride
   - Continue to trend
   - Could consider hydrochloric acid
   .
   # Anemia: Hct 23.2 on admission.  Previously felt to be secondary to
   bone marrow supression from HIB with component of hemolysis. Hemolysis
   labs overnight negative with normal haptoglobin. Transfused [**6-9**] for
   crit 21 with appropriate response, however crit 19.1 this am. Concern
   for alveolar hemorrhage given anemia and respiratory distress without
   clear infectious physiology. Also with large flank ecchymosis this am.
   - Transfuse 1 unit PRBC, crossmatch for 2 units.
   - Check hct Q12H
   - Guaiac stools
   .
   # HIV/AIDS: Most recent CD4 count 33 on [**2133-1-6**], [**Date Range **] load
   undetectable. HAART restarted [**6-9**].
   - cont azithromycin ppx
   - cont diflucan ppx
   - f/u ID recs
   .
   # Thrombocytopenia: Plt 62 at baseline, today 42. Felt to be secondary
   to HIV myelosuppression and sequestration [**3-3**] splenomegaly.
   - Trend plt
   - Transfuse plt for plt < 10 or active bleeding
   .
   # Hepatitis C: Active disease with most recent VL 8,640,000 IU/mL on
   [**2132-3-4**]. Not being treated [**3-3**] pancytopenia. AFP and imaging negative
   [**2-8**].
   - Limit acetaminophen to 2g/day
   .
   FEN: Regular, replete as necessary
   PPx: SCDs
   Access: [**Last Name (LF) 1403**], [**First Name3 (LF) **]
   Code: full code confirmed with patient
   Communication: Patient
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-6-8**] 11:34 PM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-06-12 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2132-6-11**] 05:09 PM
    CT Chest- Perihilar infiltrates. Apical parenchymal disease.
   - BP trending down (SBP 90s). Sedation decreased, 500 cc IVF bolus
   given with good response. Received an additional 500 cc MIVF overnight.
   - Per ID, TMP/SMX switched to ppx dosing and corticosteroids held.
   Repeat rapid viral screen again without cells.
   - TF started.
   - PM hct 24.5
   - Urine sodium 22.
   - MTB precautions?
   - AM Hct 20.8. 1 unit PRBC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-6-10**] 11:00 PM
   Piperacillin - [**2132-6-11**] 03:00 AM
   Bactrim (SMX/TMP) - [**2132-6-11**] 11:00 AM
   Vancomycin - [**2132-6-11**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-6-12**] 02:17 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-6-12**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 87 (80 - 107) bpm
   BP: 107/56(72) {88/50(64) - 147/73(97)} mmHg
   RR: 22 (19 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,800 mL
                                                                    708 mL
   PO:
           TF:
                                                                     71 mL
                                                                    170 mL
   IVF:
                                                                  2,520 mL
                                                                    259 mL
   Blood products:
   278 mL
   Total out:
                                                                  1,880 mL
                                                                    570 mL
   Urine:
                                                                  1,880 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.45/64/114/40/17
   Ve: 8.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Intubated, sedated
   HEENT: ET tube, OG tube in place
   Cardiovascular: RRR
   Respiratory / Chest: b/l crackles
   Abdominal: Soft, non distended
   Extremities: 2 + edema b/l
   Skin:  skin grafting on ant chest,  echymoses on extremities, R flank
   Neurologic: sedated
   Labs / Radiology
   44 K/uL
   7.7 g/dL
   112 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.6 mEq/L
   16 mg/dL
   88 mEq/L
   129 mEq/L
   20.8 %
   1.8 K/uL
        [image002.jpg]
                             [**2132-6-10**]  07:42 PM
                             [**2132-6-10**]  07:59 PM
                             [**2132-6-11**]  02:54 AM
                             [**2132-6-11**]  03:10 AM
                             [**2132-6-11**]  05:17 AM
                             [**2132-6-11**]  11:40 AM
                             [**2132-6-11**]  04:54 PM
                             [**2132-6-12**]  03:20 AM
                             [**2132-6-12**]  03:41 AM
                             [**2132-6-12**]  05:36 AM
   WBC
   4.6
   1.8
   Hct
   22.9
   25.2
   24.5
   20.8
   Plt
   55
   44
   Cr
   0.7
   0.6
   TCO2
   44
   43
   44
   45
   44
   46
   Glucose
   133
   112
   Other labs: PT / PTT / INR:14.1/25.6/1.2, CK / CKMB /
   Troponin-T:22//<0.01, ALT / AST:78/61, Alk Phos / T Bili:164/1.2,
   Fibrinogen:177 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:300
   IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   MICROBIOLOGY
   -EMV/ CMV ([**6-10**]) pending
   -BAL ([**6-10**])
 gm stain 2+ pmns, cx- GNRs
     - neg PCP
     [**Name Initial (PRE) **] [**Name9 (PRE) 6356**] no growth to date
     - Acid fast smear: negative
     - Fungal Cx/Acid fast cx: NGTD
   - Sputum cx ([**6-10**])
 gm stain 1+ GPR, 1+ GPCs pairs, culture pending
   - Influenza A/B ([**6-9**])
 negative
   - BCx ([**6-10**])
 NGTD
   - Urine legionella ([**6-9**])- negative
   - BCx ([**6-8**])- NGTD
   CT CHEST: No PE. Pulmonary HTN. Moderate b/l pleural effusion.
   Opacities surrounding chronic bronchiectasis probably related to acute
   infection, worse in RUL. Rib fracture. Multiple vertebral body
   compression fractures.
   Assessment and Plan
   Mr. [**Known lastname 6267**] is a 53 year old female with a PMH significant for AIDS
   (CD4 34) admitted with dyspnea and hypoxia now intubated for
   respiratory failure.
   .
   # Respiratory failure: Bronch yesterday with clear secretions with
   minimal muscosal friability. BAL gram stain negative with complete
   culture and serology/PCR results pending.  Continues to have broad
   differential including atypical/OI pulmonary infection including MAC,
   viral, or more common pathogen bacterial pneumonia. PCP ruled out and
   patient transitioned back to prophylaxis PCP [**Name Initial (PRE) 6260**]. Non-infectious
   etiologies include PE although less likely given evolving bilateral
   peri-hilar infiltrates.  DAH ruled out given bronch yesterday with
   minimal hemorrhage. Intersitial pneumonitis is a possibility,
   especially given AIDS, including LIP or BOOP.  Patient at baseline has
   poor cardiopulmonary reserve given known bronchiectasis, pulmonary
   hypertension, and R->L shunt. Per discussion with HCP, patient would
   only be agreeable to short-term intubation.
   - F/u final read CT chest
   - Continue broad spectrum antimicrobials with vanco, pip/tazo, and
   levofloxacin.
   - Follow-up culture and other infectious data including BAL, sputum,
   beta glucan, galactomannan, EBV, CMV, and acid-fast.
   - Standing MDIs
   - Continue with mechanical ventilation at ARDS/[**Doctor Last Name 76**] settings
   - Follow-up ID recs
   .
   .
   # Acid-base: Patient at baseline likely has chronic respiratory
   acidosis with compensatory metabolic alkalosis.
   - 7.45/64/114/40
   .
   # Anemia: Patient has received 2 units PRBCs since admission. Hct this
   AM stable at 20.8. Given 1 unit pRBCs. Hemolysis and DIC labs negative.
   - Check post transfusion hct
   - Check Q12H hct, transfuse for hct<21
   - Guaiac stools
   - Maintain active T+S
   .
   # HIV/AIDS: Most recent CD4 count 33 on [**2133-1-6**], viral load
   undetectable. HAART restarted [**6-9**].
   - Continue HAART
   - Cont azithromycin ppx
   - Cont bactrim ppx
   - Cont diflucan ppx
   - F/u ID recs
   .
   # Thrombocytopenia: Plt 60-100. Plt this AM 44. Felt to be secondary to
   HIV myelosuppression and sequestration [**3-3**] splenomegaly.
   - Trend plt
   - Transfuse plt for plt < 10 or active bleeding
   .
   # Hepatitis C: Active disease with most recent VL 8,640,000 IU/mL on
   [**2132-3-4**]. Not being treated [**3-3**] pancytopenia. AFP and imaging negative
   [**2-8**].
   - Limit acetaminophen to 2g/day
   - Trend LFTs
   .
   FEN: Nutrition consult for TF, Replete as necessary
   PPx: SCDs
   Access: PIV
   Code: DNR.  HCP states that patient would only want short-term
   intubation.
   Communication: Patient.
   - HCP [**Name (NI) **] [**Name (NI) 4987**]: [**Telephone/Fax (1) 6330**], [**Telephone/Fax (1) 6331**]
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-6-11**] 04:58 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-6-8**] 11:34 PM
   Arterial Line - [**2132-6-11**] 05:09 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: HCP [**Name (NI) **] [**Name (NI) 4987**]
   Code status: DNR
   Disposition: ICU

2132-06-13 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Self-extubated yesterday morning.
   - [**Doctor First Name 2675**] coming for family meeting today  at 1 pm
   - BAL growing pseudomonas
   - crit 24.5, LDH 228, fibriogen 184, plts 48 fdp 0-10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-6-10**] 11:00 PM
   Piperacillin - [**2132-6-11**] 03:00 AM
   Bactrim (SMX/TMP) - [**2132-6-11**] 11:00 AM
   Vancomycin - [**2132-6-12**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-6-13**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2132-6-12**] 10:00 AM
   Midazolam (Versed) - [**2132-6-12**] 10:10 AM
   Propofol - [**2132-6-12**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-6-13**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 129 (87 - 130) bpm
   BP: 122/75(92) {84/47(61) - 148/84(106)} mmHg
   RR: 29 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,370 mL
                                                                    670 mL
   PO:
             TF:
                                                                    351 mL
                                                                     97 mL
   IVF:
                                                                  1,591 mL
                                                                    574 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  1,535 mL
                                                                    560 mL
   Urine:
                                                                  1,535 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    835 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35, Agitated
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.41/69/89.[**Numeric Identifier 299**]/38/14
   Ve: 7.5 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.3 g/dL
   117 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.9 mEq/L
   14 mg/dL
   94 mEq/L
   134 mEq/L
   23.4 %
   2.0 K/uL
        [image002.jpg]
                             [**2132-6-11**]  11:40 AM
                             [**2132-6-11**]  04:54 PM
                             [**2132-6-12**]  03:20 AM
                             [**2132-6-12**]  03:41 AM
                             [**2132-6-12**]  05:36 AM
                             [**2132-6-12**]  08:22 AM
                             [**2132-6-12**]  12:08 PM
                             [**2132-6-12**]  04:58 PM
                             [**2132-6-13**]  02:55 AM
                             [**2132-6-13**]  03:20 AM
   WBC
   1.8
   2.0
   Hct
   24.5
   20.8
   23.8
   24.5
   23.4
   Plt
   44
   48
   42
   Cr
   0.6
   0.4
   0.4
   TCO2
   45
   44
   46
   39
   45
   Glucose
   112
   111
   117
   Other labs: PT / PTT / INR:14.1/25.6/1.2, CK / CKMB /
   Troponin-T:22//<0.01, ALT / AST:78/61, Alk Phos / T Bili:164/1.2,
   Fibrinogen:184 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:228
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: Since the prior study, endotracheal tube has been
   withdrawn and now
   terminates about 3 cm above the carina. Otherwise, no relevant change
   since
   recent study.
   Microbiology: BAL - GNR, speciation pending
   Sputum - GNR, speciation pending
   Assessment and Plan
   Mr. [**Known lastname 6267**] is a 53 year old female with a PMH significant for AIDS
   (CD4 34) admitted with dyspnea and hypoxia now intubated for
   respiratory failure.
   .
   # Respiratory failure: Bronch [**6-10**] with clear secretions with minimal
   muscosal friability. BAL and induced sputum cultures with 1+ GNRs.
   Continues to have broad differential including atypical/OI pulmonary
   infection including MAC, viral, or more common pathogen bacterial
   pneumonia. PCP ruled out and patient transitioned back to prophylaxis
   PCP [**Name Initial (PRE) 6260**]. CT chest demonstrated no PE.  DAH ruled out given bronch
   with minimal hemorrhage. Intersitial pneumonitis is a possibility,
   especially given AIDS, including LIP or BOOP.  MTB unlikely given
   negative AFB on bronch.  Patient at baseline has poor cardiopulmonary
   reserve given known bronchiectasis, pulmonary hypertension, and R->L
   shunt. Per discussion with HCP, patient would only be agreeable to
   short-term intubation.
   - Continue pip/tazo and levofloxacin for GNR double coverage.
   - Discontinue vanco
   - Follow-up culture and other infectious data including beta glucan,
   galactomannan, EBV, and CMV.
   - Standing MDIs
   - Continue with mechanical ventilation at ARDS/[**Doctor Last Name 76**] settings
   - Follow-up ID recs
   .
   # Acid-base: Patient at baseline likely has chrnic respiratory acidosis
   with compensatory metabolic alkalosis. Most recent gas 7.41/69/89.
   .
   # Anemia: Patient received 1 unit PRBC yesterday for hct 20.8 (3 total
   for LOS). Hemolysis labs negative.
   - Check Q12H hct, transfuse for hct<21
   - Guaiac stools
   - Maintain active T+S
   .
   # HIV/AIDS: Most recent CD4 count 33 on [**2133-1-6**], viral load
   undetectable. HAART restarted [**6-9**].
   - Continue HAART
   - Cont azithromycin ppx
   - Cont bactrim ppx
   - Cont diflucan ppx
   - F/u ID recs
   .
   # Thrombocytopenia: Plt 60-100. Plt this AM 42. Felt to be secondary to
   HIV myelosuppression and sequestration [**3-3**] splenomegaly.  DIC labs
   negative.
   - Trend plt
   - Transfuse plt for plt < 10 or active bleeding
   .
   # Hepatitis C: Active disease with most recent VL 8,640,000 IU/mL on
   [**2132-3-4**]. Not being treated [**3-3**] pancytopenia. AFP and imaging negative
   [**2-8**].
   - Limit acetaminophen to 2g/day
   - Trend LFTs
   .
   FEN: Continue TF, Replete as necessary
   PPx: SCDs
   Access: PIV
   Code: DNR.  HCP states that patient would only want short-term
   intubation.  Family meeting today.
   Communication: Patient.
   - HCP [**Name (NI) **] [**Name (NI) 4987**]: [**Telephone/Fax (1) 6330**], [**Telephone/Fax (1) 6331**]
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-6-12**] 05:01 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-6-8**] 11:34 PM
   Arterial Line - [**2132-6-11**] 05:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-06-14 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2132-6-13**] 10:00 AM
   - Family meeting, plan for terminal extubation tomorrow.  All meds
   except for sedation, analgesia, and pip/tazo discontinued.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2132-6-11**] 11:00 AM
   Vancomycin - [**2132-6-13**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-6-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-6-13**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-6-14**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.2
C (97.2
   HR: 91 (91 - 122) bpm
   BP: 85/52(65) {85/52(65) - 115/65(83)} mmHg
   RR: 19 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,746 mL
                                                                    224 mL
   PO:
             TF:
                                                                    446 mL
                                                                    132 mL
   IVF:
                                                                  1,080 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    360 mL
   Urine:
                                                                  1,425 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    321 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 346 (346 - 346) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 23 cmH2O
   Plateau: 0 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Intubated
   HEENT: ETT in place
   Cardiovascular: RRR
   Respiratory / Chest: b/l crackles
   Abdominal: Soft, non distended
   Extremities: 2 + edema b/l
   Skin:  skin grafting on ant chest,  echymoses on extremities, R flank
   Labs / Radiology
   42 K/uL
   8.3 g/dL
   117 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.9 mEq/L
   14 mg/dL
   94 mEq/L
   134 mEq/L
   23.4 %
   2.0 K/uL
        [image002.jpg]
                             [**2132-6-11**]  11:40 AM
                             [**2132-6-11**]  04:54 PM
                             [**2132-6-12**]  03:20 AM
                             [**2132-6-12**]  03:41 AM
                             [**2132-6-12**]  05:36 AM
                             [**2132-6-12**]  08:22 AM
                             [**2132-6-12**]  12:08 PM
                             [**2132-6-12**]  04:58 PM
                             [**2132-6-13**]  02:55 AM
                             [**2132-6-13**]  03:20 AM
   WBC
   1.8
   2.0
   Hct
   24.5
   20.8
   23.8
   24.5
   23.4
   Plt
   44
   48
   42
   Cr
   0.6
   0.4
   0.4
   TCO2
   45
   44
   46
   39
   45
   Glucose
   112
   111
   117
   Other labs: PT / PTT / INR:14.1/25.6/1.2, CK / CKMB /
   Troponin-T:22//<0.01, ALT / AST:78/61, Alk Phos / T Bili:164/1.2,
   Fibrinogen:184 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:228
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6267**] is a 53 year old male with a PMH significant for AIDS (CD4
   34) admitted with dyspnea and hypoxia now intubated for respiratory
   failure.
   .
   # Respiratory failure/Goals of care: Likely secondary to Pseudomonas
   pneumonia in the setting of underlying structural lung disease and
   pulmonary hypertension.  Given the patient's persisent borderline
   hemodynamics, vent requirement, and fevers despite broad spectrum
   antibiotics, the decision was made yesterday in conjunction with
   patient's HCP for terminal extubation today.
   - Hold all non-CMO medications
   - Plan for terminal extubation this afternoon with family/friends at
   bedside. PCP aware and will attempt to come by today.
   - Family has declined post-mortem.
   .
   FEN: Discontinue TF and OGT clamped
   PPx: SCDs
   Access: PIV
   Code: Plan for CMO and terminal extubation this afternoon.
   - HCP [**Name (NI) **] [**Name (NI) 4987**]: [**Telephone/Fax (1) 6330**], [**Telephone/Fax (1) 6331**]
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-6-13**] 11:12 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-6-8**] 05:15 PM
   Arterial Line - [**2132-6-11**] 05:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: